US09328118B2
tert-Butyl 4-(2-{[(4-methylphenyl)sulfonyl]oxy}ethyl)piperidine-1-carboxylate (2.65 g) and potassium carbonate (2.0 g) were added to a mixture of 4-bromo-2-(trifluoromethyl)benzenethiol (1.8 g) and DMF (20 mL) at room temperature, and the mixture was stirred at the same temperature overnight. The reaction mixture was further stirred at 80° C. for 3 hours. After the reaction mixture was cooled to room temperature, water (50 mL) and EtOAc (30 mL) were added thereto, then extraction thereof was performed using EtOAc, and the extract was washed with saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=100:0 to 80:20), whereby tert-butyl 4-(2-{[4-bromo-2-(trifluoromethyl)phenyl]sulfanyl}ethyl)piperidine-1-carboxylate (2.83 g) was obtained as a colorless oil.

reactant | tert-Butyl 4-(2-{[(4-methylphenyl)sulfonyl]oxy}ethyl)piperidine-1-carboxylate | 2.65 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC1CCN(CC1)C(=O)OC(C)(C)C | C19H29NO5S
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-2-(trifluoromethyl)benzenethiol | 1.8 g | BrC1=CC(=C(C=C1)S)C(F)(F)F | C7H4BrF3S
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | water | 50 mL | O | H2O
product | tert-butyl 4-(2-{[4-bromo-2-(trifluoromethyl)phenyl]sulfanyl}ethyl)piperidine-1-carboxylate | 2.83 g | BrC1=CC(=C(C=C1)SCCC1CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C19H25BrF3NO2S
